US07241791B2
4-(7-chloro-1-propyl-1H-indazol-3-yl)phenyl 3,3-dimethylbutanoate
To a solution of 4-(7-chloro-1-propyl-1H-indazol-3-yl)phenol (0.100 g, 0.35 mmol) and N,N-diisopropylethyl amine (0.5 g, 0.38 mmol) in CH2Cl2 (5 mL) was added dropwise tert-butylacetyl chloride (0.051 g, 0.38 mmol). The solution was allowed to stir overnight at room temperature. Water was added and the solution was extracted with CH2Cl2. The organic layer was washed with brine and dried (MgSO4). The product was purified by flash chromatography (5/1 hexane/ethyl acetate) to yield a white solid (0.098 g, 72%).

reactant | 4-(7-chloro-1-propyl-1H-indazol-3-yl)phenol | 0.35 mmol, 0.100 g | ClC=1C=CC=C2C(=NN(C12)CCC)C1=CC=C(C=C1)O | C16H15ClN2O
reactant | N,N-diisopropylethyl amine | 0.38 mmol, 0.5 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-butylacetyl chloride | 0.38 mmol, 0.051 g | C(C)(C)(C)CC(=O)Cl | C6H11ClO
reactant | Water | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(7-chloro-1-propyl-1H-indazol-3-yl)phenyl 3,3-dimethylbutanoate | 0.098 g, 72% | CC(CC(=O)OC1=CC=C(C=C1)C1=NN(C2=C(C=CC=C12)Cl)CCC)(C)C | C22H25ClN2O2
